US09278915B2
Intermediate 68: Benzyl (1R,2S)-2-(4-hydroxyphenyl)cyclopropane carboxylate
To a 100 mL RB flask fitted with magnetic stirrer was charged with 50 mL of acetone. To the stirred solvent was added (1R,2S)-2-(4-hydroxyphenyl)cyclopropanecarboxylic acid (0.51 g, 2.86 mmol). The reaction mixture was brought to 0° C., potassium bicarbonate (0.28 g, 2.8 mmol), stirred for 10 minutes, benzyl bromide (0.3 mL, 2.8 mmol) was added drop wise. The reaction mixture was heated at 40° C. for 2 h. The reaction mixture was concentrated to distill off the solvent; water (25 mL) was added and extracted with ethyl acetate (25 mL). The organic layer was washed with brine solution (25 mL). The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as pale yellow liquid (0.44 g, yield: 57.2%). 1H NMR (300 MHz, CDCl3): δ 7.30 (s, 4H), 7.19 (s, 1H), 6.89-6.92 (d, 2H), 6.66-6.68 (d, 2H), 5.08 (s, 2H), 4.89 (s, 1H), 2.41-2.48 (m, 1H), 1.78-1.84 (m, 1H), 1.49-1.56 (m, 1H), 1.17-1.24 (m, 1H).

reactant | (1R,2S)-2-(4-hydroxyphenyl)cyclopropanecarboxylic acid | 2.86 mmol, 0.51 g | OC1=CC=C(C=C1)[C@@H]1[C@@H](C1)C(=O)O | C10H10O3
reactant | potassium bicarbonate | 2.8 mmol, 0.28 g | C([O-])(O)=O.[K+]
reactant | benzyl bromide | 2.8 mmol, 0.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | Benzyl (1R,2S)-2-(4-hydroxyphenyl)cyclopropane carboxylate | 0.44 g, yield: 57.2% | OC1=CC=C(C=C1)[C@@H]1[C@@H](C1)C(=O)OCC1=CC=CC=C1 | C17H16O3
